US06057358
2-(2-Benzyloxy-4-nitrophenoxy)ethanol (400 mg, 1.383 mmol) was dissolved in pyridine (5 ml); after cooling at 0° C., methanesulfonyl chloride (0.22 ml, 2.76 mmol) was slowly added dropwise, followed by stirring at room temperature for 2 h. The solvent was evaporated under vacuum and the residue was diluted with a saturated aqueous solution of sodium bicarbonate (10 ml), followed by extraction with chloroform (100 ml). The extracted organic layer was dried with sodium sulfate and the solvent was evaporated; the resulting residue was dissolved in 15 ml of a 1:2 solvent system of ethanol and acetonitrile and, thereafter, 2-[N-(3,4-dimethoxyphenethyl)-N-methylamino]ethane (0.765 ml, 4.148 mmol) was added, followed by stirring at the reflux temperature for 8 h. The reaction solution was cooled to room temperature and thereafter the solvent was evaporated; the resulting residue was purified by being subjected to column chromatography on silica gel using a 1:1 solvent system of n-hexane and ethyl acetate as an eluent. The fractions containing the product were collected and the solvent was evaporated to yield the end compound 1-(2-benzyloxy-4-nitrophenoxy)-2-[N-(3,4-dimethoxyphenethyl)-N-methylamino]ethane (600 mg).

reactant | 2-(2-Benzyloxy-4-nitrophenoxy)ethanol | 1.383 mmol, 400 mg | C(C1=CC=CC=C1)OC1=C(OCCO)C=CC(=C1)[N+](=O)[O-] | C15H15NO5
reactant | methanesulfonyl chloride | 2.76 mmol, 0.22 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[N-(3,4-dimethoxyphenethyl)-N-methylamino]ethane | 4.148 mmol, 0.765 ml | COC=1C=C(CCN(C)CC)C=CC1OC | C13H21NO2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2-benzyloxy-4-nitrophenoxy)-2-[N-(3,4-dimethoxyphenethyl)-N-methylamino]ethane | 600 mg | C(C1=CC=CC=C1)OC1=C(OCCN(C)CCC2=CC(=C(C=C2)OC)OC)C=CC(=C1)[N+](=O)[O-] | C26H30N2O6
